US06500863B1
N-phenyl-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (540 mg, 1.85 mmol), aniline (173 mg, 1.85 mmol) and triethylamine (0.61 mL, 5.55 mmol) were reacted to form the desired product (1 30 mg, 20%). 1NMR (MeOD-d4): δ7.65 (d, 1H), 7.58 (d, 1H), 7.40 (t, 2H), 7.15 (m, 3H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 1.85 mmol, 540 mg | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | aniline | 1.85 mmol, 173 mg | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 5.55 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
product | N-phenyl-2,6-dichloro-3-nitrobenzenesulfonamide | 30 mg, 20% | C1(=CC=CC=C1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C12H8Cl2N2O4S
